US04088762
(a) 3-(3-Amino-4-methoxybenzoyl)propionic acid
A solution of 3-(4-methoxy-3-nitrobenzoyl) propionic acid (10.5 g.) in 5N ammonia solution (150 ml.) was added in one portion to a stirred hot (90° C) solution of hydrated ferrous sulphate (90 g.) in water (210 ml.) and stirring was continued for 10 minutes more. The hot mixture was filtered through Hyflo and the filtrate was concentrated to 50 ml. volume and neutralised with acetic acid. The mixture was cooled, the precipitated solid collected and purified by crystallisation from dilute methanol toyield the amine, (5.5 g.), m.p. 136°-137° C.

reactant | 3-(4-methoxy-3-nitrobenzoyl) propionic acid | 10.5 g | COC1=C(C=C(C(=O)CCC(=O)O)C=C1)[N+](=O)[O-] | C11H11NO6
solvent | ammonia | 5N, 150 ml | N | H3N
solvent | water | 210 ml | O | H2O
product | 3-(3-Amino-4-methoxybenzoyl)propionic acid | NC=1C=C(C(=O)CCC(=O)O)C=CC1OC | C11H13NO4
